US03971787
4-(7-Chloro-4-quinolylamino)-N-(2-diethylaminoethyl)-N-ethyl-benzamide
4-(7-Chloro-4-quinolylamino) benzoyl chloride hydrochloride (prepared by refluxing 9.0 grams of 4-(7-chloro-4-quinolylamino) benzoic acid and evaporating the excess thionyl chloride, was added in portions to a cooled, stirred mixture of 4.32 grams of N,N,N1 -triethylethylene diamine and 32 grams of sodium carbonate in 60 milliliters of chloroform and 70 milliliters of water. After stirring for 2 days at room temperature the reaction mixture was filtered, the chloroform layer separated, dried and evaporated to give an oil. This was triturated with hexane to give a light brown solid, which was triturated with acetone to give 5.3 grams of the title compound as a quarter hydrate.

reactant | 4-(7-Chloro-4-quinolylamino) benzoyl chloride hydrochloride | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)Cl)C=C1
reactant | 4-(7-chloro-4-quinolylamino) benzoic acid | 9.0 grams | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)O)C=C1 | C16H11ClN2O2
product | 4-(7-Chloro-4-quinolylamino)-N-(2-diethylaminoethyl)-N-ethyl-benzamide | 5.3 grams | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N(CC)CCN(CC)CC)C=C1 | C24H29ClN4O
